US03962318
HYDROLYSIS OF EPOXY ETHANE DIPHOSPHONATE
The hydrolysis of epoxy ethane diphosphonate to produce the dihydroxy ethane diphosphonate proceeds according to the following general reaction: ##EQU6## wherein R3 is the same as defined above. The aforementioned reaction may be carried out by mixing the epoxy ethene diphosphonate in a sufficient volume of water, i.e., at least stoichiometric quantities, preferably a molar ratio of water to EEDP of 1:1 to 20:1, and heating the resultant mass until substantially complete hydrolysis occurs. The use of greater than stoichiometric quantities of water functions as a diluent for the reaction system. It is also found that substantially water-miscible organic diluents which have a boiling point between about 50°C and 150°C, preferably from about 70°C to about 100°C, such as dioxane, acetone, lower alcohols (e.g., methanol, ethanol, propanol and butanol) are suitable as a reaction medium or diluent in which the above-described hydrolysis reaction can be conducted.

reactant | epoxy ethene diphosphonate | P(=O)(O)OP(=O)O.O1C=C1
reactant | water | O | H2O
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
product | EPOXY ETHANE DIPHOSPHONATE | P(=O)(O)OP(=O)O.O1CC1 | InChI=1S/C2H4O.H4O5P2/c1-2-3-1;1-6(2)5-7(3)4/h1-2H2;6-7H,(H,1,2)(H,3,4)
